US09227985B2
2-{4-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperazin-1-yl}-N,N-dimethylacetamide
To a solution of (4S)-7-(3,5-dimethylisoxazol-4-yl)-2-piperazin-1-yl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine trihydrochloride (10 mg, 0.03 mmol) in methylene chloride (1.0 mL), potassium carbonate (18 mg, 0.13 mmol) was added, followed by 2-chloro-N,N-dimethylacetamide (2.7 μL, 0.026 mmol) and the mixture was stirred for 5 min. The mixture was then heated at 60° C. overnight. The mixture was diluted with methanol and purified by preparative LCMS using pH 10 buffer to give the title compound, (3.7 mg, 30%). LCMS calc. for C27H32N7O3 (M+H)+: m/z=502.2. found: 502.3.

reactant | (4S)-7-(3,5-dimethylisoxazol-4-yl)-2-piperazin-1-yl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine trihydrochloride | 0.03 mmol, 10 mg | Cl.Cl.Cl.CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCNCC2)C
reactant | potassium carbonate | 0.13 mmol, 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.026 mmol, 2.7 μL | ClCC(=O)N(C)C | C4H8ClNO
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-{4-[(4S)-7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperazin-1-yl}-N,N-dimethylacetamide | 3.7 mg, 30% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCN(CC2)CC(=O)N(C)C)C | C27H31N7O3
